US07037916B2
To a solution of 3-fluorobenzamidine (1.14 g) and 3-oxoheptanoic acid methyl ester (1.0 g, Fluka, USA) in 15 mL of ethanol was added 3.15 mL of a 3 M solution of sodium ethoxide in ethanol. The mixture was heated to reflux for 48 h, allowed to cool to room temperature, and the volatiles were removed in vacuo. The residue was dissolved in chloroform and washed with water three times. The aqueous extractions were combined, acidified to pH=6, and washed three times with ethyl acetate. All organic layers were combined, dried over magnesium sulfate, and concentrated in vacuo. The product was purified by column chromatography using 60% ethyl acetate in hexanes as the mobile phase to yield 6-butyl-2-(3-fluorophenyl)-3H-pyrimidin-4-one (0.9 g).

reactant | 3-fluorobenzamidine | 1.14 g | FC=1C=C(C(=N)N)C=CC1 | C7H7FN2
reactant | 3-oxoheptanoic acid methyl ester | 1.0 g | COC(CC(CCCC)=O)=O | C8H14O3
reactant | sodium ethoxide | [O-]CC.[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 6-butyl-2-(3-fluorophenyl)-3H-pyrimidin-4-one | 0.9 g | C(CCC)C1=CC(NC(=N1)C1=CC(=CC=C1)F)=O | C14H15FN2O
